US07129367B2
To a solution of carbazole (0.34 g, 2.0 mmol) in xylene (4 ml) were added sodium tert-butoxide (0.23 g, 2.4 mmol), bromobenzene (0.23 ml, 2.2 mmol), palladium acetate (4.5 mg, 0.02 mmol) and 2,2-diphenyl-1-(di-tert-butylphosphino)-1-methylcyclopropane (14.1 mg, 0.04 mmol) obtained in Example 4 under a nitrogen atmosphere and the mixture was stirred for 3 hours at 120° C. The reaction mixture was cooled, washed with water, and dried over anhydrous magnesium sulfate. Then, the solvent was removed under reduced pressure, and the concentrate was purified by column chromatography to give N-phenylcarbazole (0.479 g, 98%, purity: >99%) as white crystal.

reactant | carbazole | 2.0 mmol, 0.34 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | sodium tert-butoxide | 2.4 mmol, 0.23 g | CC(C)([O-])C.[Na+]
reactant | bromobenzene | 2.2 mmol, 0.23 ml | BrC1=CC=CC=C1 | C6H5Br
solvent | xylene | 4 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | palladium acetate | 0.02 mmol, 4.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2,2-diphenyl-1-(di-tert-butyl-phosphino)-1-methylcyclopropane | 0.04 mmol, 14.1 mg | C1(=CC=CC=C1)C1(C(C1)(C)P(C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C24H33P
product | N-phenylcarbazole | 0.479 g, 98% | C1(=CC=CC=C1)N1C2=CC=CC=C2C=2C=CC=CC12 | C18H13N
